US06573293B2
3-Methyl-5-(2-oxo-6-phenyl-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-2-carboxylic Acid (3-diethylaminopropyl)amide
6-Phenyl-1,3-dihydroindol-2-one (105 mg, 0.5 mmol) was condensed with 5-formyl-3-methyl-1H-pyrrole-2-carboxylic acid (3-diethylaminopropyl)amide to give 67.8 (30%) of the title compound.

reactant | 6-Phenyl-1,3-dihydroindol-2-one | 0.5 mmol, 105 mg | C1(=CC=CC=C1)C1=CC=C2CC(NC2=C1)=O | C14H11NO
reactant | 5-formyl-3-methyl-1H-pyrrole-2-carboxylic acid (3-diethylaminopropyl)amide | C(C)N(CCCNC(=O)C=1NC(=CC1C)C=O)CC | C14H23N3O2
product | 3-Methyl-5-(2-oxo-6-phenyl-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-2-carboxylic Acid (3-diethylaminopropyl)amide | C(C)N(CCCNC(=O)C=1NC(=CC1C)C=C1C(NC2=CC(=CC=C12)C1=CC=CC=C1)=O)CC | C28H32N4O2
